US09216999B2
1-Cyclohexyl-7-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[3′,2′:5,6]pyrido[4,3-d]pyrimidin-4(7H)-one
4-(Cyclohexylamino)-N-formyl-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine-5-carboxamide (12.4 mg, 0.0311 mmol) in N-methyl-2-pyrrolidinone (0.5 mL) was stirred at 200° C. for 30 minutes under microwave irradiation. The reaction mixture was allowed to cool to room temperature and, after addition of saturated aqueous ammonium chloride, extracted with ethyl acetate, and the organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=1/1 (v/v)) to give the title compound as a pale yellow amorphous (9.2 mg, yield 74%).

reactant | 4-(Cyclohexylamino)-N-formyl-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine-5-carboxamide | 0.0311 mmol, 12.4 mg | C1(CCCCC1)NC1=C2C(=NC=C1C(=O)NC=O)N(C=C2)COCC[Si](C)(C)C | C21H32N4O3Si
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N-methyl-2-pyrrolidinone | 0.5 mL | CN1C(CCC1)=O | C5H9NO
product | 1-Cyclohexyl-7-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[3′,2′:5,6]pyrido[4,3-d]pyrimidin-4(7H)-one | yield 74% | C1(CCCCC1)N1C=NC(C2=C1C1=C(N=C2)N(C=C1)COCC[Si](C)(C)C)=O | C21H30N4O2Si
